* source CIRCUITWITHAD8608
X_U11         N21681 N21581 N21605 N21499 N21327 AD8608 
R_R10         N21581 0  1k TC=0,0 
V_V1         N21153 0 -1
R_R6         N21157 N21241  1k TC=0,0 
R_R1         N21153 N21157  1k TC=0,0 
C_C4         0 N21347  1m IC=0 TC=0,0 
V_V5         0 N21499 15
C_C3         N21281 N21225  1m IC=0.05 TC=0,0 
C_C2         N21327 N21581  1m IC=0.1 TC=0,0 
X_U10         N21347 N21225 N21605 N21499 N21281 AD8608 
R_R9         N21225 0  1k TC=0,0 
V_V4         N21605 0 15
R_R8         N21281 N21681  1k TC=0,0 
C_C5         0 N21681  1m IC=0 TC=0,0 
R_R5         N21281 N21157  500 TC=0,0 
R_R7         N21241 N21347  1k TC=0,0 
X_U9         0 N21157 N21605 N21499 N21241 AD8608 
R_R4         N21327 N21157  200 TC=0,0 
